US07320995B2
1-isopropylsulfonyl-2-amino-6-(2-(methyl)-5-(2,4-difluorophenyl)-imidazol-4-yl)-benzimidazole methanesulfonate
To a solution of 1-isopropylsulfonyl-2-amino-6-(1-(benzyl)-2-(methyl)-5-(2,4-difluorophenyl)-imidazol-4-yl)-benzimidazole (390 mg, 0.75 mmol) in 100 mL methanol add palladium black (390 mg), and hydrogen gas at 50° C. overnight at 60 psi. The solution is filtered and purified by radial chromatography eluting with 8% methanol in methylene chloride to yield 152 mg (47%) of the title compound as an off-white solid. MS(ES+): m/z=432.0 (M+H)+

reactant | 1-isopropylsulfonyl-2-amino-6-(1-(benzyl)-2-(methyl)-5-(2,4-difluorophenyl)-imidazol-4-yl)-benzimidazole | 0.75 mmol, 390 mg | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2N=C(N(C2C2=C(C=C(C=C2)F)F)CC2=CC=CC=C2)C)N | C27H25F2N5O2S
reactant | hydrogen | [H][H] | H2
reactant | methanol | 100 mL | CO | CH4O
catalyst | palladium black | 390 mg | [Pd] | Pd
product | 1-isopropylsulfonyl-2-amino-6-(2-(methyl)-5-(2,4-difluorophenyl)-imidazol-4-yl)-benzimidazole methanesulfonate | 152 mg, 47% | CS(=O)(=O)O.C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2N=C(NC2C2=C(C=C(C=C2)F)F)C)N | InChI=1S/C20H19F2N5O2S.CH4O3S/c1-10(2)30(28,29)27-17-8-12(4-7-16(17)26-20(27)23)18-19(25-11(3)24-18)14-6-5-13(21)9-15(14)22;1-5(2,3)4/h4-10H,1-3H3,(H2,23,26)(H,24,25);1H3,(H,2,3,4)
